US04358599
4-Amino-1,2-diethyl-pyrazolidine
To a solution of approximately 3.0 g (0.016 mole) of 4-nitro-1,2-diethyl-pyrazolidine in 100 ml of toluene was added 60 ml of anhydrous ethanol and 2 g Raney nickel (washed three times with anhydrous ethanol). The mixture was added and hydrogenated for three hours at about 30 psi. The mixture was filtered to give a light yellow solution. The solvents were evaporated at reduced pressure giving the colorless liquid, 1.95 g of the title product, b.p. 113°-115° C./40 mm. The dimaleate salt melted at 119°-120° C.

reactant | 4-nitro-1,2-diethyl-pyrazolidine | 0.016 mole, approximately 3.0 g | [N+](=O)([O-])C1CN(N(C1)CC)CC | C7H15N3O2
reactant | ethanol | 60 ml | C(C)O | C2H6O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Raney nickel | 2 g | [Ni] | Ni
product | 4-Amino-1,2-diethyl-pyrazolidine | 1.95 g | NC1CN(N(C1)CC)CC | C7H17N3
